US05212269
b) Preparation of 4-Formyl-N-ethyl-N-(2-benzoyloxyethyl)aniline
Phosphorous oxychloride (0.33mL, 3.5 mmol) was added to dry dimethylformamide (3 mL) at 0° C. for 15 minutes. After cooling to room temperature, N-ethyl-(2-benzoyloxyethyl)aniline (1 g, 3.5 mmol) was added followed by stirring at room temperature for 5 minutes and then at 90° C. for 30 minutes. The dark green solution was then cooled to room temperature and made basic to pH 8 by addition of 1 molar sodium hydroxide solution. Product was extracted into diethyl ether (3×20 mL). The combined ether extracts were washed with water (30 mL), saturated sodium chloride (30 mL), dried over magnesium sulfate and solvent removed under reduced pressure. Product was isolated as a clear yellow oil (0.90 g, 82% yield).

reactant | Phosphorous oxychloride | 3.5 mmol, 0.33mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-ethyl-(2-benzoyloxyethyl)aniline | 3.5 mmol, 1 g | C(C)N(C1=CC=CC=C1)CCOC(C1=CC=CC=C1)=O | C17H19NO2
reactant | sodium hydroxide | 1 molar | [OH-].[Na+]
reactant | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-Formyl-N-ethyl-N-(2-benzoyloxyethyl)aniline | 0.90 g, 82% yield | C(=O)C1=CC=C(N(CCOC(C2=CC=CC=C2)=O)CC)C=C1 | C18H19NO3
